US08426447B2
To a solution of 8-bromo-10H-chromeno[3,2-b]pyridin-10-one (60 g, 217 mmol) and urea peroxide (42.9 g, 456 mmol) in 120 mL of DCM at 0° C. was added dropwise trifluoroacetic anhydride (63.9 mL, 456 mmol). The resulting reaction was stirred for 2 h. The reaction was quenched with 10% Na2S2O3, extracted with DCM, dried over Na2SO4 and evaporated to dryness to give crude 8-bromo-10-oxo-10H-chromeno[3,2-b]pyridine 1-oxide as a pale yellow solid.

reactant | 8-bromo-10H-chromeno[3,2-b]pyridin-10-one | 217 mmol, 60 g | BrC1=CC=2C(C3=NC=CC=C3OC2C=C1)=O | C12H6BrNO2
reactant | urea peroxide | 456 mmol, 42.9 g | C(=O)(N)N.OO
reactant | trifluoroacetic anhydride | 456 mmol, 63.9 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
product | 8-bromo-10-oxo-10H-chromeno[3,2-b]pyridine 1-oxide | BrC1=CC=2C(C3=[N+](C=CC=C3OC2C=C1)[O-])=O | C12H6BrNO3
